US07932250B2
tert-Butyl trans-4-cyanocyclohexylcarbamate
To a solution of 765 mg (4.99 mmol) of trans-4-cyanocyclohexane carboxylic acid in 10 mL of tert-butanol was added 766 μL (5.49 mmol) of triethylamine and 1.13 mL (5.24 mmol) of diphenylphosphorylazide at room temperature, and the mixture was refluxed for 6 hours. After the reaction mixture was cooled to room temperature, ethyl acetate was added to this mixture and the organic layer was washed with saturated sodium bicarbonate aqueous solution, then, dried over with anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (eluent:hexane/ethyl acetate=2/1) to give 608 mg (54%) of the title compound.

reactant | trans-4-cyanocyclohexane carboxylic acid | 4.99 mmol, 765 mg | C(#N)[C@@H]1CC[C@H](CC1)C(=O)O | C8H11NO2
reactant | triethylamine | 5.49 mmol, 766 μL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 5.24 mmol, 1.13 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tert-butanol | 10 mL | C(C)(C)(C)O | C4H10O
product | tert-Butyl trans-4-cyanocyclohexylcarbamate | 608 mg, 54% | C(#N)[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C12H20N2O2
